### PR TITLE
chore: deprecate `BialgHom.coe_toLinearMap`

### PR DESCRIPTION
**Pull request by YaelDillies**
`BialgHom.toLinearMap` is a fake projection.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Bialgebra/Hom.lean [hunk 1]
```diff
@@ -160,6 +160,7 @@ theorem coe_toCoalgHom (f : A →ₐc[R] B) : ⇑(f : A →ₗc[R] B) = f :=
   rfl
 
 lemma toCoalgHom_apply (f : A →ₐc[R] B) (a : A) : f.toCoalgHom a = f a := rfl
+lemma toLinearMap_apply (f : A →ₐc[R] B) (x : A) : f.toLinearMap x = f x := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra/Hom.lean]: This ordering is a little weird, I'd expect either the grouping to be coe vs apply or CoalgHom vs LinearMap, this is neither.

File: Mathlib/RingTheory/Bialgebra/Hom.lean [hunk 2]
```diff
@@ -155,19 +155,12 @@ theorem coe_coalgHom_mk {f : A →ₗc[R] B} (h h₁) :
...
 lemma toCoalgHom_apply (f : A →ₐc[R] B) (a : A) : f.toCoalgHom a = f a := rfl
-
-@[simp, norm_cast]
-theorem coe_toLinearMap (f : A →ₐc[R] B) : ⇑(f : A →ₗ[R] B) = f :=
-  rfl
-
-@[norm_cast]
-theorem coe_toAlgHom (f : A →ₐc[R] B) : ⇑(f : A →ₐ[R] B) = f :=
-  rfl
+lemma toLinearMap_apply (f : A →ₐc[R] B) (x : A) : f.toLinearMap x = f x := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra/Hom.lean]: What actually is `toLinearMap` here? Does it expand to a chain of projections?

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: Indeed it goes through `CoalgHom`. What do you suggest? Drop both `toLinearMap_apply` and `coe_toLinearMap`?

Comment (eric-wieser) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: Yes, that would be my advice, and instead add any mising `toAlgHom` lemmas. I'm somewhat surprised that `BialgHom` doesn't extend `algHom`.

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: Then it looks like there's nothing to add since there's already `AlgHom.coe_coe`

File: Mathlib/RingTheory/Bialgebra/Hom.lean [hunk 3]
```diff
@@ -155,19 +155,13 @@ theorem coe_coalgHom_mk {f : A →ₗc[R] B} (h h₁) :
...
 
-@[simp, norm_cast]
-theorem coe_toCoalgHom (f : A →ₐc[R] B) : ⇑(f : A →ₗc[R] B) = f :=
-  rfl
+@[simp, norm_cast] lemma coe_toCoalgHom (f : A →ₐc[R] B) : ⇑(f : A →ₗc[R] B) = f := rfl
+@[norm_cast] lemma coe_toAlgHom (f : A →ₐc[R] B) : ⇑(f : A →ₐ[R] B) = f := by simp
 
-lemma toCoalgHom_apply (f : A →ₐc[R] B) (a : A) : f.toCoalgHom a = f a := rfl
+@[deprecated "Use the `CoalgHom` API." (since := "2025-08-10")]
+lemma coe_toLinearMap (f : A →ₐc[R] B) : ⇑(f : A →ₗ[R] B) = f := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra/Hom.lean]: Isn't this coercion the `LinearMapClass` one, meaning we still need this lemma until we drop those coercions too?

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: I think we do **not** need this lemma until we drop the `LinearMapClass` coercion

File: Mathlib/RingTheory/Bialgebra/Hom.lean [hunk 4]
```diff
@@ -155,19 +155,13 @@ theorem coe_coalgHom_mk {f : A →ₗc[R] B} (h h₁) :
...
   rfl
 
-@[simp, norm_cast]
-theorem coe_toCoalgHom (f : A →ₐc[R] B) : ⇑(f : A →ₗc[R] B) = f :=
-  rfl
+@[simp, norm_cast] lemma coe_toCoalgHom (f : A →ₐc[R] B) : ⇑(f : A →ₗc[R] B) = f := rfl
+@[norm_cast] lemma coe_toAlgHom (f : A →ₐc[R] B) : ⇑(f : A →ₐ[R] B) = f := by simp
 
-lemma toCoalgHom_apply (f : A →ₐc[R] B) (a : A) : f.toCoalgHom a = f a := rfl
+@[deprecated "Use the `CoalgHom` API." (since := "2025-08-10")]
```
Comment (erdOne) [inline Mathlib/RingTheory/Bialgebra/Hom.lean]: I don't understand. Could you explain more? In particular, which lemma are you referring to?

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: The coercion on the LHS is composite. The infoview at the point of the `rfl` is `⊢ ⇑↑f = ⇑f`, where the three coercions are, in order:
* `@DFunLike.coe (A →ₗ[R] B) A (fun x ↦ B) LinearMap.instFunLike`
* `@SemilinearMapClass.semilinearMap R R A B (A →ₐc[R] B) inst✝⁶.toSemiring inst✝⁶.toSemiring
  inst✝⁵.toNonAssocSemiring.toAddCommMonoid inst✝⁴.toNonAssocSemiring.toAddCommMonoid Algebra.toModule Algebra.toModule
  (RingHom.id R)`
* `@DFunLike.coe (A →ₐc[R] B) A (fun x ↦ B) funLike`

and therefore it is not the `BialgHom`'s API job to provide this lemma

Comment (erdOne) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: I think the only reason why it is currently not `BialgHom`'s job is because we have the bad coercion `SemilinearMapClass.semilinearMap` but morally I would argue this should be here (see e.g. `AlgHom.coe_toRingHom` and `DistribMulActionHom.coe_toLinearMap` and `CoalgHom.coe_toLinearMap` and more). I think this is also making the future work of removing `SemilinearMapClass.semilinearMap` more difficult.

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: Indeed, I have already thought about this and my reasoning goes further:

Once we remove `SemilinearMapClass.semilinearMap`, we will want to have two coercions from `BialgHom`: one to `AlgHom` and one to `CoalgHom`. We do not want to add a direct coercion to `LinearMap`, because we would be back to having quadratically many coercions. Instead, we want to make one of the two paths `BialgHom -> AlgHom -> LinearMap` and `BialgHom -> CoalgHom -> LinearMap` have higher priority (probably the one through `AlgHom`) and use the transitive coercion (which is syntactically the composition of its two constituent coercions).

Therefore we will not need `BialgHom.coe_toLinearMap`, and I am not making the future refactor more difficult.

Comment (erdOne) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: We will still need `BialgHom.coe_toLinearMap`? Is your proposed alternative to have users remember which route to coerce `BialgHom` to `LinearMap` and use two lemmas instead of one? I would argue that having quadratically many lemmas is way better than users having to remember quadratically many implementation details.

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: No? It's a simp lemma, people should not have to call it by hand (and indeed it was never called by hand). Rewriting backwards with such a lemma is rare enough that we shouldn't worry about it.

Comment (erdOne) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: I do not think rewriting backwards is rare enough? At least I often do so for `AlgHom.toRingHom` and I suspect the only reason why this is never used in mathlib is merely that there is little result on bialgebras now.

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/Hom.lean]: [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.27s.20morphism.20hierarchy/with/554383157)

**Comment by YaelDillies** [comment]
Let's close this for now. It looks like I don't need it anymore.
